US07220758B2
4-[3-(4-Amino-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)propane-1-sulfonyl]-N-butylbenzamide
The general methods described in Example 101 were followed with the following modifications. To one-third of the crude solution of 4-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)propane-1-sulfonyl]benzoyl chloride in dichloromethane, described in Part B of Example 101, was added butylamine (0.49 mL, 4.9 mmol) in lieu of morpholine, and the reaction was stirred overnight. Additional butylamine (0.5 mL) was added, and the reaction was stirred for two hours. Dichloromethane (100 mL) was added to the reaction mixture, and the resulting solution was washed with saturated aqueous sodium carbonate (3×25 mL), water (3×25 mL), 10% by volume acetic acid in water (3×30 mL), and water (30 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was dried for three hours in a vacuum oven at 100° C. and then triturated with ethyl acetate to provide a solid that was isolated by filtration and dried for three hours in a vacuum oven at 90° C. N-Butyl-4-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)propane-1-sulfonyl]benzamide (830 mg, 1.62 mmol) was treated as described in Part C of Example 101. The crude product was purified by column chromatography on silica gel (eluting sequentially with chloroform and 90:10 chloroform:methanol) to provide the product as an oil, which was recrystallized from ethyl acetate:hexane with a few drops of methanol to yield crystals. The crystals were isolated by filtration, washed with hexanes, and dried in a vacuum oven at 80° C. to provide 0.18 g of 4-[3-(4-amino-6,7-dimethyl-2-propyl-1II-imidazo[4,5-c]pyridin-1-yl)propane-1-sulfonyl]-N-butylbenzamide as a white powder, mp 147.0–149.0° C.

reactant | 4-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)propane-1-sulfonyl]benzoyl chloride | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCS(=O)(=O)C2=CC=C(C(=O)Cl)C=C2)CCC)C | C21H23ClN6O3S
reactant | butylamine | 4.9 mmol, 0.49 mL | C(CCC)N | C4H11N
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | butylamine | 0.5 mL | C(CCC)N | C4H11N
reactant | N-Butyl-4-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)propane-1-sulfonyl]benzamide | 1.62 mmol, 830 mg | C(CCC)NC(C1=CC=C(C=C1)S(=O)(=O)CCCN1C(=NC=2C=3N(C(=C(C21)C)C)N=NN3)CCC)=O | C25H33N7O3S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-[3-(4-Amino-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)propane-1-sulfonyl]-N-butylbenzamide | NC1=NC(=C(C2=C1N=C(N2CCCS(=O)(=O)C2=CC=C(C(=O)NCCCC)C=C2)CCC)C)C | C25H35N5O3S
